US07932272B2
Quinoline-6-carboxylic acid (2-benzyl-2H-tetrazol-5-ylmethyl)-amide
Sodium azide (260 mg, 4.0 mmol) and ammonium chloride (210 mg, 4.0 mmol) were suspended in a solution of quinoline-6-carboxylic acid cyanomethyl-amide described in Preparation Example E-1 (420 mg, 2.0 mmol) in N,N-dimethylformamide (15 mL), and the solution was stirred at 100° C. for 12 hours. Benzyl bromide (0.12 mL, 1.0 mmol) and potassium carbonate (400 mg, 3.0 mmol) were added to a solution having half the amount of the solution containing quinoline-6-carboxylic acid (2H-tetrazol-5-ylmethyl)amide obtained, which was then stirred for 20 minutes at 50° C. Water and ethyl acetate were added to the reaction solution, which was then partitioned, NH silica gel was added to the organic layer, and the solvent was evaporated in vacuo for adsorption, purification was carried out by NH silica gel column chromatography, and the title compound (20 mg, 0.058 mmol) was obtained as a white solid.

reactant | Sodium azide | 4.0 mmol, 260 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.0 mmol, 210 mg | [Cl-].[NH4+]
reactant | quinoline-6-carboxylic acid cyanomethyl-amide | C(#N)CNC(=O)C=1C=C2C=CC=NC2=CC1 | C12H9N3O
reactant | Benzyl bromide | 1.0 mmol, 0.12 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 3.0 mmol, 400 mg | C([O-])([O-])=O.[K+].[K+]
reactant | quinoline-6-carboxylic acid (2H-tetrazol-5-ylmethyl)amide | N=1NN=NC1CNC(=O)C=1C=C2C=CC=NC2=CC1 | C12H10N6O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | Quinoline-6-carboxylic acid (2-benzyl-2H-tetrazol-5-ylmethyl)-amide | 0.058 mmol, 20 mg | C(C1=CC=CC=C1)N1N=C(N=N1)CNC(=O)C=1C=C2C=CC=NC2=CC1 | C19H16N6O
